US04904065
5.1 g of 8-bromo-1-octene, 8.2 g of 2-methylbutyl 4'-hydroxybiphenyl-4-carboxylate, and 4.0 g of potassium carbonate were refluxed in acetone for 20 hours. After the conclusion of the reaction, the reaction product was diluted with dichloromethane, and the inorganic matters were removed by filtration. The solvent was distilled out under reduced pressure, and the residue was purified by column chromatography to obtain 8.1 g of the objective 2-methylbutyl 4'-(7-octenyloxy)biphenyl-4-carboxylate. (Yield: 77%)

reactant | 8-bromo-1-octene | 5.1 g | BrCCCCCCC=C | C8H15Br
reactant | 2-methylbutyl 4'-hydroxybiphenyl-4-carboxylate | 8.2 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OCC(CC)C | C18H20O3
reactant | potassium carbonate | 4.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-methylbutyl 4'-(7-octenyloxy)biphenyl-4-carboxylate | 8.1 g, Yield: 77% | C(CCCCCC=C)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OCC(CC)C | C26H34O3
